US08389523B2
6.6 g (27 mmol) of 2-(4-methoxyphenyl)amino-3-nitropyridine was dissolved in methanol (150 mL). A solution in which tin (II) chloride dihydrate was dissolved in 12 N hydrochloric acid (40 mL) was prepared, and this solution was added dropwise to the reaction solution at 0° C. over 5 minutes. The reaction solution was returned to room temperature, and then stirred for 3 hours. After confirming the completion of the reaction, the solvent was distilled off under reduced pressure, and water (100 mL) was added. The reaction solution was adjusted to pH 12 using a 10% aqueous solution of sodium hydroxide, subsequently filtered, and extracted with dichloromethane. The obtained organic layer was dried over anhydrous magnesium sulfate, and then the inorganic matter was separated by filtration. The solvent was distilled off under reduced pressure, to obtain 5.2 g (yield: 90%) of 3-amino-2-(4-methoxyphenyl)aminopyridine as orange-colored crystals.

reactant | 2-(4-methoxyphenyl)amino-3-nitropyridine | 27 mmol, 6.6 g | COC1=CC=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-] | C12H11N3O3
solvent | methanol | 150 mL | CO | CH4O
solvent | tin (II) chloride dihydrate | O.O.[Sn](Cl)Cl
solvent | hydrochloric acid | 12 N, 40 mL | Cl | ClH
product | 3-amino-2-(4-methoxyphenyl)aminopyridine | 5.2 g, yield: 90% | NC=1C(=NC=CC1)NC1=CC=C(C=C1)OC | C12H13N3O
